US04698337
A mixture of 7-[2-(2-formamidothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer, 0.30 g.), conc. hydrochloric acid (0.14 g.) and methanol (3.5 ml.) was stirred at room temperature for 7 hours. After concentrating the resultant solution in vacuo, the residue was pulverized with a mixture of diisopropyl ether (10 ml.) and methanol (10 ml.). The precipitates were collected by filtration to give 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid dihydrochloride (syn isomer, 0.21 g.).

reactant | 7-[2-(2-formamidothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 0.30 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCCN | C18H20N10O6S3
reactant | hydrochloric acid | 0.14 g | Cl | ClH
solvent | methanol | 3.5 ml | CO | CH4O
product | 7-[2-(2-aminothiazol-4-yl)-2-(2-aminoethoxyimino)acetamido]-3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid dihydrochloride | 0.21 g | Cl.Cl.NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2C)C(=O)O)C1=O)=NOCCN | InChI=1S/C17H20N10O5S3.2ClH/c1-26-17(22-24-25-26)35-5-7-4-33-14-10(13(29)27(14)11(7)15(30)31)21-12(28)9(23-32-3-2-18)8-6-34-16(19)20-8;;/h6,10,14H,2-5,18H2,1H3,(H2,19,20)(H,21,28)(H,30,31);2*1H/t10?,14-;;/m1../s1
